US04092304
A solution of 26.6 parts N-t-butoxycarbonyl-L-tryptophan 2,4,5-trichlorophenyl ester and 12.0 parts L-methionine benzyl ester in 200 parts methylene chloride is stirred overnight at room temperature. The solvent is then removed by evaporation under reduced pressure. The crude dipeptide is then subjected to low-pressure column chromatography on silica gel to afford N-t-butoxycarbonyl-L-tryptophyl-L-methionine benzyl ester.

reactant | N-t-butoxycarbonyl-L-tryptophan 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C22H21Cl3N2O4
reactant | L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CCSC)=O | C12H17NO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-L-tryptophyl-L-methionine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)CCSC)=O | C28H35N3O5S
